US05348944
To a solution of 9.4 g of ethyl azacyclooctane-2-carboxylate in 400 ml of ethyl acetate add 17.0 g of N-benzyloxycarbonyl- (S) -alanine, N-hydroxysuccinimide ester. Stir the reaction mixture at room temperature for 20 hours and concentrate it in vacuo to give 1-[N-benzyloxycarbonyl-(S)-alanyl]azacyclooctane-2(R,S)-carboxylic acid, ethyl ester, as a colorless oil.

reactant | ethyl azacyclooctane-2-carboxylate | 9.4 g | N1C(CCCCCC1)C(=O)OCC | C10H19NO2
reactant | N-benzyloxycarbonyl- (S) -alanine | 17.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 1-[N-benzyloxycarbonyl-(S)-alanyl]azacyclooctane-2(R,S)-carboxylic acid, ethyl ester | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N1C(CCCCCC1)C(=O)OCC | C21H30N2O5
